US03973038
4-Amino-2,6-dichlorophenol (10 g.) and N,N-dimethylaniline (10 ml.) were dissolved in acetone (100 ml.) to which, with stirring and under cooling at 0°-4° C., the acetone solution of diacetyl-β-resorcyloyl chloride was added dropwise. After several hours, the reaction mixture was made acidic with hydrochloric acid, and was subjected to evaporation under reduced pressure until the volume was halved. The resultant solution was added to 1 liter of 4 N hydrochloric acid and allowed to stand in the cold. Precipitates were obtained and dissolved in acetone. The acetone solution was made alkaline with 2 N sodium hydroxide and stirred for several hours at room temperature. Acidifying the solution to pH 1-2 with dilute hydrochloric acid gave precipitate which was recrystallized in aqueous acetone to give light yellow prism-like crystals of 3',5'-dichloro-2,4,4'- trihydroxybenzanilide (13.2 g.). Yield: 84.8%. The melting point is 235°- 237° C.

reactant | 4-Amino-2,6-dichlorophenol | 10 g | NC1=CC(=C(C(=C1)Cl)O)Cl | C6H5Cl2NO
reactant | N,N-dimethylaniline | 10 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | diacetyl-β-resorcyloyl chloride | C(C)(=O)C1=C(C(=C(C(C(=O)Cl)=C1)O)C(C)=O)O | C11H9ClO5
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3',5'-dichloro-2,4,4'- trihydroxybenzanilide | 13.2 g, Yield: 84.8% | ClC=1C=C(NC(C2=C(C=C(C=C2)O)O)=O)C=C(C1O)Cl | C13H9Cl2NO4
